US07405305B2
3-(1-Methyl-1H-indol-4-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione
Add potassium tert-butoxide (4.1 ml, 4.1 mmol, 1M in tetrahydrofuran) to a suspension of 2-[1-(3-hydroxypropyl)-1H-indol-3-yl]acetamide (0.32 g, 1.38 mmol) and (1-methyl-1H-indol-4-yl)oxoacetic acid methyl ester (0.30 g, 1.38 mmol) in dimethylformamide (10 ml). Stir the reaction at room temperature for 12 hours, quench with 1N HCl, and extract into ethyl acetate. Wash the organic extract with 5% aqueous lithium chloride and saturated aqueous sodium chloride, dry over magnesium sulfate, filter, and concentrate under reduced pressure. Chromatograph on flash silica using a gradient from neat hexanes to 100% ethyl acetate:hexane to obtain the title compound (0.3 g, 54%) as a red solid. ES(M++1)400.2 ES(M−−1)398.6.

reactant | potassium tert-butoxide | 4.1 mmol, 1M, 4.1 ml | CC(C)([O-])C.[K+]
reactant | 2-[1-(3-hydroxypropyl)-1H-indol-3-yl]acetamide | 1.38 mmol, 0.32 g | OCCCN1C=C(C2=CC=CC=C12)CC(=O)N | C13H16N2O2
reactant | (1-methyl-1H-indol-4-yl)oxoacetic acid methyl ester | 1.38 mmol, 0.30 g | COC(C(=O)C1=C2C=CN(C2=CC=C1)C)=O | C12H11NO3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(1-Methyl-1H-indol-4-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.3 g, 54% | CN1C=CC2=C(C=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCO)=O)=O | C24H21N3O3
